US08445501B2
4-{[4-(2-Cyclopropylmethoxy-5-fluoro-phenyl)-5H-pyrrolo[3,2-d]pyrimidine-7-carbonyl]-amino}-piperidine-1-carboxylic acid tert-butyl ester
Starting from 4-(2-cyclopropylmethoxy-5-fluoro-phenyl)-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid (example A77) and 4-amino-piperidine-1-carboxylic acid tert-butyl ester the title compound is obtained as colorless solid.

reactant | 4-(2-cyclopropylmethoxy-5-fluoro-phenyl)-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid | C1(CC1)COC1=C(C=C(C=C1)F)C=1C2=C(N=CN1)C(=CN2)C(=O)O | C17H14FN3O3
reactant | 4-amino-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)N | C10H20N2O2
product | 4-{[4-(2-Cyclopropylmethoxy-5-fluoro-phenyl)-5H-pyrrolo[3,2-d]pyrimidine-7-carbonyl]-amino}-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)NC(=O)C1=CNC2=C1N=CN=C2C2=C(C=CC(=C2)F)OCC2CC2 | C27H32FN5O4
